US08980877B2
TEA (0.271 ml, 1.95 mmol) was added to solution of (±)-(E)-3-[1′-tert-butoxycarbonyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid (484 mg, 1.29 mmol) in DCM (10 ml). The mixture was cooled down to 0° C., and EDC (372 mg, 1.95 mmol) and HOBt (263 mg, 1.95 mmol) were added. The mixture was stirred at 0° C. for 3 h, then NH2OTHP (182 mg, 1.56 mmol) was added and the mixture was stirred at RT overnight. The solution was washed with aqueous 5% NaHCO3 solution and brine. The organic layer was then dried over Na2SO4 and evaporated. The crude residue was purified by column chromatography (eluent: DCM/MeOH 98:2) to give (±)-(E)-3-[1′-tert-butoxycarbonyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (499 mg) as a light yellow solid.

reactant | (±)-(E)-3-[1′-tert-butoxycarbonyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid | 1.29 mmol, 484 mg | C(C)(C)(C)OC(=O)N1CC2(CC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C20H23NO6
reactant | EDC | 1.95 mmol, 372 mg
reactant | HOBt | 1.95 mmol, 263 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH2OTHP | 1.56 mmol, 182 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (±)-(E)-3-[1′-tert-butoxycarbonyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 499 mg | C(C)(C)(C)OC(=O)N1CC2(CC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C25H32N2O7
